US03994890
By the procedure similar to that described in Example 1, 3-phenylindazole (3.88 g) and piperidinopropyl chloride hydrochloride (5.94 g) were treated to obtain 5.3 g of 1-piperidinopropyl-3-phenylindazole hydrochloride (m.p. 201°-202° C).

reactant | 3-phenylindazole | 3.88 g | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | piperidinopropyl chloride hydrochloride | 5.94 g | Cl.N1(CCCCC1)CCCCl
product | 1-piperidinopropyl-3-phenylindazole hydrochloride | 5.3 g | Cl.N1(CCCCC1)C(CC)C1=C2C(=NNC2=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H25N3.ClH/c1-2-19(24-14-7-4-8-15-24)17-12-9-13-18-20(17)21(23-22-18)16-10-5-3-6-11-16;/h3,5-6,9-13,19H,2,4,7-8,14-15H2,1H3,(H,22,23);1H
